US07119221B2
A solution of ethyl 13-[1-(t-butoxycarbonyl)cyclopropyl]-2,2-dimethyl-8-oxotridecanoate (18.34 g, 43.3 mmol) in HCO2H (50 mL) was stirred for 1.5 h, evaporated in vacuo and coevaporated in vacuo from toluene (10 mL). The remaining residue was dissolved in a mixture of EtOH and H2O (2:1, 250 mL) and NaOH (9.68 g, 241 mmol) was added. The resulting clear solution was warmed to 80° C. and after 5 h EtOH was evaporated in vacuo. The remaining solution was diluted with H2O to ˜250 mL, extracted with Et2O (3×250 mL), acidified to pH ˜1 with conc aqueous HCl (˜18 mL) and extracted with Et2O (3×250 mL). The latter organic layers were combined, dried (Na2SO4) and evaporated in vacuo to give a yellow oil which solidified overnight. The remaining residue was recrystallized from iPr2O/heptane to give 13-(1-carboxycyclopropyl)-2,2-dimethyl-8-oxotridecanoic acid (9.47 g, 57%) as a white solid. The mother liquor was evaporated in vacuo and the remaining residue was purified by column chromatography (heptane:EtOAc=2:1 (containing 1% (v/v) HOAc)) and recrystallization from iPr2O/heptane to give a second batch 13-(1-carboxycyclopropyl)-2,2-dimethyl-8-oxotridecanoic acid (2.23 g, 14%) as a white solid. mp=65–66° C. 1H NMR: (CD3OD): δ=2.43 (t, J=7.2 Hz, 4H), 1.58–1.42 (m, 10H), 1.35–1.20 (m, 6H), 1.14 (s, 6H), 1.15–1.06 (m, 2H), 0.70 (dd, J=6.6, 3.9 Hz, 2H). 13C NMR: (CD3OD): δ=213.8, 181.6, 179.0, 43.6, 43.5, 43.1, 41.9, 35.1, 31.0, 30.6, 28.7, 26.2, 25.9 (2×), 25.02, 24.96, 24.4, 16.4 (2×). Anal. calcd for C19H32O5: C, 67.03; H, 9.47, found: C, 66.86; H, 9.50.

reactant | ethyl 13-[1-(t-butoxycarbonyl)cyclopropyl]-2,2-dimethyl-8-oxotridecanoate | 43.3 mmol, 18.34 g | C(C)(C)(C)OC(=O)C1(CC1)CCCCCC(CCCCCC(C(=O)OCC)(C)C)=O | C25H44O5
reactant | NaOH | 241 mmol, 9.68 g | [OH-].[Na+]
solvent | HCO2H | 50 mL | C(=O)O | CH2O2
solvent | EtOH | CCO | C2H6O
solvent | H2O | 250 mL | O | H2O
product | 13-(1-carboxycyclopropyl)-2,2-dimethyl-8-oxotridecanoic acid | 9.47 g, 57% | C(=O)(O)C1(CC1)CCCCCC(CCCCCC(C(=O)O)(C)C)=O | C19H32O5
